US05376680
Using an analogous procedure to that described in Example 6, 5-nitrofuran-2-carboxaldehyde was reacted with O-{4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]benzyl}hydroxylamine to give 5-nitrofuran-2-carboxaldehyde O-{4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]benzyl}oxime as a gum in 58% yield.

reactant | 5-nitrofuran-2-carboxaldehyde | [N+](=O)([O-])C1=CC=C(O1)C=O | C5H3NO4
reactant | O-{4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]benzyl}hydroxylamine | FC=1C=C(C=C(C1)SC1=CC=C(CON)C=C1)C1(CCOCC1)OC | C19H22FNO3S
product | 5-nitrofuran-2-carboxaldehyde O-{4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]benzyl}oxime | 58% yield | FC=1C=C(C=C(C1)SC1=CC=C(CON=CC=2OC(=CC2)[N+](=O)[O-])C=C1)C1(CCOCC1)OC | C24H23FN2O6S
